US06451810B1
According to the general method of Example 14, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine and quinoline-4-carbonyl chloride were combined to provide N4-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-4-quinolinecarboxamide as a white crystalline solid, m.p. 214.5-215.2° C. 1H NMR (300 MHz, DMSO-d6) δ8.89 (d, J=4.3 Hz, 1H), 8.76 (t, J=5.6 Hz, 1H), 8.24 (s, 1H), 8.10-8.01 (m, 3H), 7.78 (ddd, J=8.4, 6.9, 1.5 Hz, 1H), 7.64 (dd, J=8.4, 1.1 Hz, 1H), 7.56 (ddd, J=8.3, 6.9, 1.4 Hz, 1H), 7.44 (ddd, J=8.3, 7.0, 1.3 Hz, 1H), 7.34 (d, J=4.3 Hz, 1H), 7.24 (ddd, J=8.3, 7.0, 1.3 Hz, 1H), 6.60 (broad s, 2H), 4.68 (t, J=6.9 Hz, 2H), 3.38 (q, J=7.0 Hz, 2H), 2.00 (m, 2H), 1.63 (m, 2H); MS (EI) m/e 410.1860 (410.1855 calcd for C24H22N6O).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | quinoline-4-carbonyl chloride | N1=CC=C(C2=CC=CC=C12)C(=O)Cl | C10H6ClNO
product | N4-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-4-quinolinecarboxamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(=O)C2=CC=NC1=CC=CC=C21 | C24H22N6O
